US06008213
h) Ethyl (±)-10,11-dihydro-3-(trifluoromethanesulfonyloxy)-5H-dibenzo[a,d]cycloheptene-10-acetate
Trifluoromethanesulfonic anhydride (0.45 mL, 2.68 mmol) was added dropwise to a solution of ethyl (±)-10,11-dihydro-3-hydroxy-5H-dibenzo[a,d]cycloheptene-10-acetate (611.7 mg, 2.06 mmol) and 2,6-lutidine (0.48 mL, 4.12 mmol) in anhydrous CH2Cl2 (10.3 mL) at -78° C. under argon. After 0.5 h, the reaction was warmed to RT and stirred for 1 h. The yellow solution was diluted with Et2O (50 mL) and washed sequentially with 1.0 N HCl (5 mL), 5% NaHCO3 (5 mL), and brine (5 mL). Drying (MgSO4), concentration, and silica gel chromatography (20% EtOAc/hexanes) gave the title compound as a colorless oil (808.9 mg, 92%): TLC Rf (20% EtOAc/hexanes) 0.58; 1H NMR (250 MHz, CDCl3) δ 6.98-7.30 (m, 7H), 4.35 (d, J=15.2 Hz, 1H), 4.19 (q, J=7.1 Hz, 2H), 3.91 (d, J=15.2 Hz, 1H), 3.78-3.95 (m, 1H), 3.37 (dd, J=15.2, 4.1 Hz, 1H), 3.02 (dd, J=15.2, 9.6 Hz, 1H), 2.70 (dd, J=15.8, 4.8 Hz, 1H), 2.53 (dd, J=15.8, 9.6 Hz, 1H), 1.27 (t, J=7.1 Hz, 3H); FTIR (CCl4) 1735, 1493, 1427, 1250, 1215, 1144,961, 856 cm-1 ; MS (ES) m/e 451.1 (M+Na)+, 446.2 (M+NH4)+, 429.2 (M+H)+.

reactant | Trifluoromethanesulfonic anhydride | 2.68 mmol, 0.45 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ethyl (±)-10,11-dihydro-3-hydroxy-5H-dibenzo[a,d]cycloheptene-10-acetate | 2.06 mmol, 611.7 mg | OC=1C=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1 | C19H20O3
reactant | 2,6-lutidine | 4.12 mmol, 0.48 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | CH2Cl2 | 10.3 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | Ethyl (±)-10,11-dihydro-3-(trifluoromethanesulfonyloxy)-5H-dibenzo[a,d]cycloheptene-10-acetate | 808.9 mg, 92% | FC(S(=O)(=O)OC=1C=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1)(F)F | C20H19F3O5S
